2172-11-09 07:35:00 Physician Resident Progress Note
Chief Complaint: tachypnea
   24 Hour Events:
   Changed to NRB upon transfer to MICU - ABG 7.43/45/169
   LE LENIs to assess for DVT and PE risk - no dvt in both lower
   extremities, superficial thrombophlebitis in R calf region
   Continued on lactulose - +BMs, >1L out brown stool
   Changed antibiotics to vanco, meropenem, stopped SBP prophylaxis
   Thera abd paracentesis - 5L bloody fluid removed, sent for cell counts,
   cx, cytology, IV albumin post procedure
   Pre-procedure bladder pressure 17, post-procedure bladder pressure 12
   HCT recheck post-tap --> 27--> 26.8 --> 28
   IVF bolus NS 1L for hepatorenal challenge (pre-renal by urine lytes) -
   Cr from 2.7 to 2.4
   Ascitic fluid: 942 wbc (45% poly), hct spin 7.5 --> ?culture (-),
   neutrocytic ascites (cx pending, gram stain (-)) - on [**Last Name (un) **], vanco
   Has not received all free water boluses through NGT, nursing holding
   feeds due to concern for residuals, received free water 6am
   History obtained from Family / [**Hospital 216**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2172-11-6**] 11:04 AM
   Linezolid - [**2172-11-8**] 03:00 PM
   Meropenem - [**2172-11-9**] 12:04 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-11-8**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2172-11-9**] 06:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-11-9**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.4
C (97.6
   HR: 83 (77 - 107) bpm
   BP: 143/91(103) {131/73(86) - 158/91(149)} mmHg
   RR: 23 (22 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 92.6 kg
   Height: 68 Inch
    Bladder pressure: 13 (13 - 17) mmHg
   Total In:
                                                                  1,943 mL
                                                                    795 mL
   PO:
                                                                     60 mL
   TF:
   IVF:
                                                                  1,373 mL
                                                                    425 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  5,700 mL
                                                                  1,380 mL
   Urine:
                                                                    700 mL
                                                                    380 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
                                                                  5,000 mL
   Balance:
                                                                 -3,757 mL
                                                                   -585 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 95%
   ABG: 7.43/45/169/28/5
   PaO2 / FiO2: 169
   Physical Examination
   General Appearance: Well nourished, No acute distress, intermittent
   moaning
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Lymphatic: no LAD appreciated
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Absent : at bases)
   Abdominal: Soft, Non-tender, Distended, Obese, tympanetic abdomen,
   ostomy bag in place RLQ from paracentesis
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, Rash: no rash appreciated
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): cannot assess orientation, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   398 K/uL
   9.1 g/dL
   128 mg/dL
   2.4 mg/dL
   28 mEq/L
   3.7 mEq/L
   91 mg/dL
   116 mEq/L
   153 mEq/L
   28.8 %
   12.2 K/uL
        [image002.jpg]
                            [**2172-11-3**]  03:15 AM
                            [**2172-11-4**]  01:54 AM
                            [**2172-11-4**]  10:28 AM
                            [**2172-11-5**]  01:41 AM
                            [**2172-11-6**]  01:42 AM
                            [**2172-11-6**]  09:11 AM
                            [**2172-11-8**]  12:34 PM
                            [**2172-11-8**]  04:45 PM
                            [**2172-11-8**]  07:22 PM
                            [**2172-11-9**]  03:40 AM
   WBC
   11.1
   11.1
   10.7
   13.3
   12.2
   Hct
   27.5
   28.6
   29.3
   29.9
   26.8
   28.8
   Plt
   177
   246
   314
   414
   398
   Cr
   2.3
   2.5
   2.5
   2.7
   2.4
   TCO2
   36
   33
   31
   Glucose
   103
   108
   156
   157
   128
   Other labs: PT / PTT / INR:17.7/50.3/1.6, ALT / AST:[**11-8**], Alk Phos / T
   Bili:137/3.1, Amylase / Lipase:52/44, Differential-Neuts:76.8 %,
   Lymph:10.3 %, Mono:8.0 %, Eos:4.6 %, Fibrinogen:182 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:4.0 g/dL, LDH:268 IU/L, Ca++:10.1 mg/dL,
   Mg++:3.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   54yoM ETOH cirrhosis, DM, hypothyroidism, tranferred f/OSH [**10-27**]
   post-MVA, c/b dens fx-T8 fx, and hemoperitoneum treated medically, now
   transferred to MICU for increasing O2 requirements and tachypnea,
   concern for PE vs. HAP.
   # hypoxia - on floor, baseline O2 4l, then on AM of transfer [**11-8**], had
   increasing RR to 30s, O2 requirement of 5L, pO2 70s.
   Concern for HAP/?VAP, vs. PE vs. atelectasis [**1-18**] abd distention.
   Intubation on [**10-27**], extubation [**11-3**], vancomycin start [**11-2**] for MRSA
   on sputum cx.  WBC with rise since [**11-3**], w/o radiographic e/o
   worsening infltrte.  No report of fevers on floor.  Changed to
   meropenem and linezolid on [**11-8**] by floor team for concern for
   untreated HAP.  Has been on heparin sq (order written on [**10-31**]), so
   unless underlying hypercoaguable state, PE less likely.   Abd
   distention significant with markedly low lung volumes, repeat abg on
   transfer to MICU suggests adequate oxygenation, with stable to ?trend
   toward slowing ventilation, as pCo2 with mild rise.  Abd paracentesis
   from mechanical standpoint would be beneficial, but question
   contraindication given hemoperitoneum.
   - sputum cx, may merit bronchoscopy with cultures if worsening cxr
   - DC linezolid, restart vanco, cont meropenem for broad coverage, MRSA
   - therapeutic paracentesis with iv albumin
 cell counts, cx, gram
   stain
   - check abd pressure via bladder pressure to assess for compartment
   syndrome
   - given contraindication to systemic anticoagulation given significant
   hemoperitoneum, will assess for LE DVT with bil LENIs, with
   consideration for IVC filter
   # altered mental status/cirrhosis - +etoh cirrhosis with hepatic
   encephalopathy, reportedly inactivated from tx list due to social
   issues.  +hx portal gastropathy, h/o acites req LV [**Doctor First Name 2826**], SBP, G1 esoph
   varices, G2 int hemorrhoids, and hepatic encephalopathy.  TIPS
   performed [**8-23**], +balloon angioplasty [**3-24**] for thrombosis, verifed
   patent [**10-29**].  Pt underwent paracentesis [**10-30**], 1.5L taken off, no cxs
   sent.  Pt was reportedly a/o x3 on admit, has had worsening of clinical
   status to time of transfer, with confusion.  Will monitor for
   alternative cause of mental status changes, med effect vs. infection
   vs. CNS abnormality vs uremia.
   - hold po bactrim since [**Last Name (un) **] and vanco, to consider restart after abx
   duration
   - hold lasix/diuretics given ARF
   - hold sedating medications
   - consider flumazenil, although does not apprear to be intaking
   significant benzodiazapene
   - lactulose, rifaxamin, titrate to [**2-18**] bms/d, Lactulose enema x1 today
   - cont ursodiol
   - f/u cultures
   # liver laceration: s/p MVA, medically managed 16uPRBCs, 8uFFP, 2u
   platelets, 2u-cryo, +F7 infusion, with stable hct since, ~29, with
   check of 27 today, within range of error.  Given abd exam distention
   and concern for compartment syndrome, will need to recheck hct this PM
   to ensure stable hct.
   - trend hct
   - active t/s
   # dens/T8 fxs: nsg recommended conservative management
   - hard cervical collar x3 months
   - T8 wedge fracture, trauma recs for NWB, HOB 45 degs.
   - ?TSLO brace.
   # ARF: Cr bl 1.2, then with rise to 2.0 on admit, thought 2/2 blood
   loss, ?ATN (no documented hypotension).  Had been on lasix gtt during
   hospitalization, now off.  T/c hepato-renal, compartment syndrome.  U/S
   without e/o hydronephrosis, but could not evaluate L renal arteries.
   Given distention on abd exam, could be developing compartment
   syndrome.  Urine lytes
   - hold diuretics
   - do not see indication for iv albumin (spoke with housestaff,
   presumably for hepato-renal challenge)
   - UA, urine lytes, trend
   - check abd pressure via bladder pressure for compartment syndrome
   - if continued cr worsening, will IVF bolus for hepato-renal diagnosis,
   consult nephrology in AM
   # hypernatremia: Na was elevated at 147 since [**11-2**], likely free h2o
   deficiency, on TFs, no access to free water.
   - free h2o boluses
   - trend na, UOP
   # fEN: TFs - replete w/fiber, nutrition c/s, 200cc q8h
   # DM: cont NPH 15u [**Hospital1 **], qid finger sticks - SSI coverage
   # hypothyroidism: Continue synthroid IV.
   # ppx:  SQH, PPI
   # access: PICC placed on [**11-6**]
   # code: Full code  - discussed with hcp [**11-8**], full code, but pt has
   expressed his wishes to not be on a ventilator for extended period of
   time if prognosis was poor.  HCP consented over phone for paracentesis
   and other icu procedures.
   # dispo: icu until resp status stable
   # contact: [**Name (NI) **] [**Name (NI) 2827**] (brother) [**Telephone/Fax (1) 2828**]
   [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 2581**] [**Telephone/Fax (1) 2829**]
   ICU Care
   Nutrition:  holding TFs overnight, will attempt restart
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2172-11-8**] 12:35 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2172-11-09 07:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2172-11-8**] 12:35 PM
 PARACENTESIS - At [**2172-11-8**] 05:30 PM
   ultrasound guided at bedside; 5 lilters removed of bloody fluid.
 SPUTUM CULTURE - At [**2172-11-8**] 06:30 PM
 ULTRASOUND - At [**2172-11-8**] 09:15 PM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2172-11-6**] 11:04 AM
   Linezolid - [**2172-11-8**] 03:00 PM
   Meropenem - [**2172-11-9**] 12:04 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-11-8**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2172-11-9**] 06:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-11-9**] 07:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.4
C (97.6
   HR: 83 (77 - 107) bpm
   BP: 143/91(103) {131/73(86) - 158/91(149)} mmHg
   RR: 23 (22 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 92.6 kg
   Height: 68 Inch
   Bladder pressure: 13 (13 - 17) mmHg
   Total In:
                                                                  1,943 mL
                                                                    798 mL
   PO:
                                                                     60 mL
   TF:
   IVF:
                                                                  1,373 mL
                                                                    428 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  5,700 mL
                                                                  1,380 mL
   Urine:
                                                                    700 mL
                                                                    380 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
                                                                  5,000 mL
   Balance:
                                                                 -3,757 mL
                                                                   -582 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 95%
   ABG: 7.43/45/169/28/5
   PaO2 / FiO2: 169
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Bowel sounds present, Distended, Tender:
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   9.1 g/dL
   398 K/uL
   128 mg/dL
   2.4 mg/dL
   28 mEq/L
   3.7 mEq/L
   91 mg/dL
   116 mEq/L
   153 mEq/L
   28.8 %
   12.2 K/uL
        [image002.jpg]
                            [**2172-11-3**]  03:15 AM
                            [**2172-11-4**]  01:54 AM
                            [**2172-11-4**]  10:28 AM
                            [**2172-11-5**]  01:41 AM
                            [**2172-11-6**]  01:42 AM
                            [**2172-11-6**]  09:11 AM
                            [**2172-11-8**]  12:34 PM
                            [**2172-11-8**]  04:45 PM
                            [**2172-11-8**]  07:22 PM
                            [**2172-11-9**]  03:40 AM
   WBC
   11.1
   11.1
   10.7
   13.3
   12.2
   Hct
   27.5
   28.6
   29.3
   29.9
   26.8
   28.8
   Plt
   177
   246
   314
   414
   398
   Cr
   2.3
   2.5
   2.5
   2.7
   2.4
   TCO2
   36
   33
   31
   Glucose
   103
   108
   156
   157
   128
   Other labs: PT / PTT / INR:17.7/50.3/1.6, ALT / AST:[**11-8**], Alk Phos / T
   Bili:137/3.1, Amylase / Lipase:52/44, Differential-Neuts:76.8 %,
   Lymph:10.3 %, Mono:8.0 %, Eos:4.6 %, Fibrinogen:182 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:4.0 g/dL, LDH:268 IU/L, Ca++:10.1 mg/dL,
   Mg++:3.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   54yoM ETOH cirrhosis, DM, hypothyroidism, tranferred f/OSH [**10-27**]
   post-MVA, c/b dens fx-T8 fx, and hemoperitoneum treated medically, now
   transferred to MICU for increasing O2 requirements and tachypnea.
   > hypoxia - on floor, baseline O2 4l, then on AM of transfer [**11-8**], had
   increasing RR to 30s, O2 requirement of 5L, pO2 70s.
   Concern for HAP/?VAP, vs. PE vs. atelectasis [**1-18**] abd distention.
   Intubation on [**10-27**], extubation [**11-3**], vancomycin start [**11-2**] for MRSA
   on sputum cx.  WBC with rise since [**11-3**], w/o radiographic e/o
   worsening infltrte.  No report of fevers on floor.  Changed to
   meropenem and linezolid on [**11-8**] by floor team for concern for
   untreated HAP.  Has been on heparin sq (order written on [**10-31**]), so
   unless underlying hypercoaguable state, PE less likely.   Abd
   distention significant with markedly low lung volumes, repeat abg on
   transfer to MICU suggests adequate oxygenation, with stable to ?trend
   toward slowing ventilation, as pCo2 with mild rise.  Abd paracentesis
   from mechanical standpoint would be beneficial, but question
   contraindication given hemoperitoneum.
   - sputum cx, may merit bronchoscopy with cultures if worsening cxr
   - DC linezolid, restart vanco, cont meropenem for broad coverage, MRSA
   - therapeutic paracentesis with iv albumin
 cell counts, cx, gram
   stain
   - check abd pressure via bladder pressure to assess for compartment
   syndrome
   - given contraindication to systemic anticoagulation given significant
   hemoperitoneum, will assess for LE DVT with bil LENIs, with
   consideration for IVC filter
   >altered mental status/cirrhosis - +etoh cirrhosis with hepatic
   encephalopathy, reportedly inactivated from tx list due to social
   issues.  +hx portal gastropathy, h/o acites req LV [**Doctor First Name 2826**], SBP, G1 esoph
   varices, G2 int hemorrhoids, and hepatic encephalopathy.  TIPS
   performed [**8-23**], +balloon angioplasty [**3-24**] for thrombosis, verifed
   patent [**10-29**].  Pt underwent paracentesis [**10-30**], 1.5L taken off, no cxs
   sent.  Pt was reportedly a/o x3 on admit, has had worsening of clinical
   status to time of transfer, with confusion.  Will monitor for
   alternative cause of mental status changes, med effect vs. infection
   vs. CNS abnormality vs uremia.
   - hold po bactrim since [**Last Name (un) **] and vanco, to consider restart after abx
   duration
   - hold lasix/diuretics given ARF
   - hold sedating medications
   - consider flumazenil, although does not apprear to be intaking
   significant benzodiazapene
   - lactulose, rifaxamin, titrate to [**2-18**] bms/d, Lactulose enema x1 today
   - cont ursodiol
   - f/u cultures
   > liver laceration: s/p MVA, medically managed 16uPRBCs, 8uFFP, 2u
   platelets, 2u-cryo, +F7 infusion, with stable hct since, ~29, with
   check of 27 today, within range of error.  Given abd exam distention
   and concern for compartment syndrome, will need to recheck hct this PM
   to ensure stable hct.
   - trend hct
   - active t/s
   > dens/T8 fxs: nsg recommended conservative management
   - hard cervical collar x3 months
   - T8 wedge fracture, trauma recs for NWB, HOB 45 degs.
   - ?TSLO brace.
   > ARF: Cr bl 1.2, then with rise to 2.0 on admit, thought 2/2 blood
   loss, ?ATN (no documented hypotension).  Had been on lasix gtt during
   hospitalization, now off.  T/c hepato-renal, compartment syndrome.  U/S
   without e/o hydronephrosis, but could not evaluate L renal arteries.
   Given distention on abd exam, could be developing compartment
   syndrome.  Urine lytes
   - hold diuretics
   - do not see indication for iv albumin (spoke with housestaff,
   presumably for hepato-renal challenge)
   - UA, urine lytes, trend
   - check abd pressure via bladder pressure for compartment syndrome
   - if continued cr worsening, will IVF bolus for hepato-renal diagnosis,
   consult nephrology in AM
   > hypernatremia: Na was elevated at 147 since [**11-2**], likely free h2o
   deficiency, on TFs, no access to free water.
   - free h2o boluses
   - trend na, UOP
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2172-11-8**] 12:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2172-11-10 07:17:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PARACENTESIS - At [**2172-11-9**] 04:08 PM: total of 14 L in two separate
   attempts.
 BLOOD CULTURED - At [**2172-11-10**] 04:30 AM
 URINE CULTURE - At [**2172-11-10**] 04:30 AM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2172-11-8**] 03:00 PM
   Meropenem - [**2172-11-9**] 11:50 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-11-9**] 09:00 PM
   Haloperidol (Haldol) - [**2172-11-10**] 03:45 AM
   Heparin Sodium (Prophylaxis) - [**2172-11-10**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-11-10**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.7
   HR: 96 (62 - 99) bpm
   BP: 125/78(85) {122/57(72) - 155/105(109)} mmHg
   RR: 25 (16 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 92.6 kg
   Height: 68 Inch
             Total In:
                                                                  4,510 mL
                                                                  2,207 mL
   PO:
                                                                     60 mL
             TF:
                                                                    120 mL
                                                                    289 mL
   IVF:
                                                                  2,835 mL
                                                                  1,373 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  3,005 mL
                                                                    265 mL
   Urine:
                                                                  1,305 mL
                                                                    265 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                  1,505 mL
                                                                  1,942 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.49/36/53/25/4
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal  A+O x 2 (marked improvement from yesterday)
   Labs / Radiology
   9.4 g/dL
   383 K/uL
   161 mg/dL
   1.9 mg/dL
   25 mEq/L
   3.5 mEq/L
   84 mg/dL
   112 mEq/L
   148 mEq/L
   30.3 %
   12.7 K/uL
        [image002.jpg]
                            [**2172-11-6**]  01:42 AM
                            [**2172-11-6**]  09:11 AM
                            [**2172-11-8**]  12:34 PM
                            [**2172-11-8**]  04:45 PM
                            [**2172-11-8**]  07:22 PM
                            [**2172-11-9**]  03:40 AM
                            [**2172-11-9**]  10:50 AM
                            [**2172-11-9**]  02:45 PM
                            [**2172-11-9**]  11:38 PM
                            [**2172-11-10**]  04:27 AM
   WBC
   10.7
   13.3
   12.2
   11.0
   12.7
   Hct
   29.9
   26.8
   28.8
   30.0
   28.3
   30.3
   Plt
   [**Telephone/Fax (3) 2870**]77
   383
   Cr
   2.5
   2.7
   2.4
   1.9
   TCO2
   33
   31
   28
   Glucose
   156
   157
   128
   161
   Other labs: PT / PTT / INR:22.3/49.3/2.1, ALT / AST:13/23, Alk Phos / T
   Bili:124/3.1, Amylase / Lipase:52/44, Differential-Neuts:76.8 %,
   Lymph:10.3 %, Mono:8.0 %, Eos:4.6 %, Fibrinogen:182 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:4.1 g/dL, LDH:291 IU/L, Ca++:9.9 mg/dL,
   Mg++:3.0 mg/dL, PO4:1.6 mg/dL
   CXR [**11-10**]: improved lung vols with tenting of right hemidiaphragm
   Assessment and Plan
   54yoM ETOH cirrhosis (s/p TIPS and TIPs thrombosis), DM,
   hypothyroidism, transferred f/OSH [**10-27**] post-MVA, c/b dens fx-T8 fx,
   and hemoperitoneum treated medically ([**2177-10-28**]), also with MRSA VAP,
   extubated on [**11-3**]  now transferred to MICU for increasing O2
   requirements and tachypnea with altered mental status
   > Hypoxemia
 Hypoxemia and tachypnea on the floor with concern for
   HAP/?VAP, vs. PE vs. atelectasis [**1-18**] abd distention.  Differential
   includes: atelectais from abd distension, VAP PNA and PE.    He
   improved from a tachypnea standpoint with two large volume
   paracentesis. His increasing O2 requirement now is likely [**1-18**] volume
   overload given the albumin and free water he required.  Since we can
   not safely diurese today need to optimize pulm mechanics, up in bed,
   ideally in a chair.
   - DC linezolid, restart vanco (10 day course [**11-3**] day 1), change to
   ceftriaxone out of concern for SBP
   - follow abd pressure via bladder pressure to assess for compartment
   syndrome
   - HOB > 45 degrees given risk for aspiration
   > Encephalopathy - +etoh cirrhosis with hepatic encephalopathy,
   reportedly inactivated from tx list due to social issues. Appears
   agitated at present. Would favor restarting the lactulose and
   comtrolling agitation, there also may be a component of renal failure
   as well as hypernatremia all of which are now improving. Would cont
   - hold po bactrim since [**Last Name (un) **] and vanco, to consider restart after abx
   duration
   - Vanco level
   - hold lasix/diuretics given ARF
   - hold sedating medications
   - lactulose, rifaxamin, titrate to [**2-18**] bms/d,
   - cont ursodiol
   - f/u cultures
   - hold opiates
    > Liver laceration: s/p MVA, medically managed 16uPRBCs, 8uFFP, 2u
   platelets, 2u-cryo, +F7 infusion, with stable hct since, ~29, with
   check of 27 today, and his HCT has been stable.
   - trend hct
   - active t/s
    > dens/T8 fxs: nsg recommended conservative management . Will discuss
   can we sit him up?
   - hard cervical collar x3 months
   - T8 wedge fracture, trauma recs for NWB, HOB 45 degs.
   > ARF: Cr bl 1.2, then with rise to 2.0 on admit, thought 2/2 blood
   loss, ?ATN (no documented hypotension).  Had been on lasix gtt during
   hospitalization, now off.  Cont to follow renal function and bladder
   pressures (about 17 cm H2O).  He responded well to  a HRS challenge
   with 1gm/kg albumin.  He is overall volume overloaded and will need
   diuretics
   - hold diuretics
   - UA, urine lytes, trend  pre and post albumin challenge
   - check abd pressure via bladder pressure for compartment syndrome
   > hypernatremia: Na was elevated at 147 since [**11-2**], would increase
   free H20 with D5 after calculating his free water deficit.    Will stop
   D5 and go back to free water via NG tube.
   - free h2o boluses
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2172-11-9**] 09:00 PM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2172-11-8**] 12:35 PM
   Prophylaxis:
   DVT: Boots, d/c S/q hep
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes; patient is critically ill

2172-11-10 07:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Hematocrit overall stable: 28.8 --> 30 --> 28.3.
   - Albumin 1 g/kg given.
   - Haldol prn started.
   - Liver recs: likely SBP, treating for such.
   - Renal consulted - failure likely multifactorial.  Sediment bland.
   Recommended continuing IVFs, giving back free water.
   - Free water deficit ~ 6 liters, d5W fluids going at 200 thru AM.  Na
   worsened to 156 on noon check, then down to 148.
   - Breathing more labored and paradoxic, large volume para: 9 L removed,
   spun Hct 10.5.  Stable from hemodynamic and hematocrit standpoint.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2172-11-8**] 03:00 PM
   Meropenem - [**2172-11-9**] 11:50 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-11-9**] 09:00 PM
   Haloperidol (Haldol) - [**2172-11-10**] 03:45 AM
   Heparin Sodium (Prophylaxis) - [**2172-11-10**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-11-10**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.7
   HR: 96 (62 - 99) bpm
   BP: 125/78(85) {122/57(72) - 155/105(109)} mmHg
   RR: 25 (16 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 92.6 kg
   Height: 68 Inch
             Total In:
                                                                  4,510 mL
                                                                  2,373 mL
   PO:
                                                                     60 mL
             TF:
                                                                    120 mL
                                                                    317 mL
   IVF:
                                                                  2,835 mL
                                                                  1,511 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  3,005 mL
                                                                    265 mL
   Urine:
                                                                  1,305 mL
                                                                    265 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                  1,505 mL
                                                                  2,108 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.49/36/53/25/4
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   383 K/uL
   9.4 g/dL
   161 mg/dL
   1.9 mg/dL
   25 mEq/L
   3.5 mEq/L
   84 mg/dL
   112 mEq/L
   148 mEq/L
   30.3 %
   12.7 K/uL
        [image002.jpg]
                            [**2172-11-6**]  01:42 AM
                            [**2172-11-6**]  09:11 AM
                            [**2172-11-8**]  12:34 PM
                            [**2172-11-8**]  04:45 PM
                            [**2172-11-8**]  07:22 PM
                            [**2172-11-9**]  03:40 AM
                            [**2172-11-9**]  10:50 AM
                            [**2172-11-9**]  02:45 PM
                            [**2172-11-9**]  11:38 PM
                            [**2172-11-10**]  04:27 AM
   WBC
   10.7
   13.3
   12.2
   11.0
   12.7
   Hct
   29.9
   26.8
   28.8
   30.0
   28.3
   30.3
   Plt
   [**Telephone/Fax (3) 2870**]77
   383
   Cr
   2.5
   2.7
   2.4
   1.9
   TCO2
   33
   31
   28
   Glucose
   156
   157
   128
   161
   Other labs: PT / PTT / INR:22.3/49.3/2.1, ALT / AST:13/23, Alk Phos / T
   Bili:124/3.1, Amylase / Lipase:52/44, Differential-Neuts:76.8 %,
   Lymph:10.3 %, Mono:8.0 %, Eos:4.6 %, Fibrinogen:182 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:4.1 g/dL, LDH:291 IU/L, Ca++:9.9 mg/dL,
   Mg++:3.0 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   54yoM ETOH cirrhosis, DM, hypothyroidism, tranferred f/OSH [**10-27**]
   post-MVA, c/b dens fx-T8 fx, and hemoperitoneum treated medically, now
   transferred to MICU for increasing O2 requirements and tachypnea,
   concern for PE vs. HAP.
   # hypoxia/tachypnea
 BL 4l since extubation, then 5L.  Leading ddx of
   tachypnea thought splinting [**1-18**] ascites, VAP, less likely PE now with
   negative LENIs.  Underwent therapeutic paracentesis [**11-8**] with
   improvement in tachypnea from 35 to 25, O2 requirement from face
   mask/NRB to 5L.  For pna, added meropenem for broader coverage with
   vanco on [**11-8**], sputum gram stain showed gram positive cocci, so likely
   staph or strep, but aspirated sputum may be false negative for GN
   microbes.  PE less likely with negative LE LENIs and other leading
   diagnoses.
   - cont vanco plan to complete 10d course, ending on [**11-3**]
   - cont meropenem until [**11-10**], then reassess (if para on [**11-10**] and
   (-)GS, DC meropenem)
   # altered mental status/cirrhosis - +etoh cirrhosis with hepatic
   encephalopathy, reportedly inactivated from tx list due to social
   issues.  +hx portal gastropathy, h/o acites req LV [**Doctor First Name 2826**], SBP, G1 esoph
   varices, G2 int hemorrhoids, and hepatic encephalopathy.  TIPS
   performed [**8-23**], +balloon angioplasty [**3-24**] for thrombosis, verifed
   patent [**10-29**].  Pt underwent paracentesis [**10-30**], 1.5L taken off, no cxs
   sent.  Clinical exam has improved from admit [**11-8**] to D#1 in MICU [**11-9**]
   with increased moaning and purposeful movements with eye contact.  [**Name (NI) 8**]
   also be multifactorial: med effect vs. infection vs. uremia.
   - hold po bactrim since [**Last Name (un) **] and vanco, to consider restart if
   meropenem DC
   - hold lasix/diuretics given ARF
   - hold sedating medications
   - lactulose, rifaxamin, titrate to [**2-18**] bms/d
   - cont ursodiol
   - f/u cultures
   - plan for therapeutic paracentesis [**11-10**] with cell counts and cx
   # liver laceration: s/p MVA, medically managed 16uPRBCs, 8uFFP, 2u
   platelets, 2u-cryo, +F7 infusion, with stable hct since, ~29.  Bladder
   pressures 17 prior to para on [**11-9**], with decrease to 12 post
   procedure.  Hct ratio from [**10-30**] and [**11-6**] paracenteses with decreasing
   ratio, suggesting less degree of bleed.
   - trend hct
   - active t/s
   # dens/T8 fxs: nsg recommended conservative management
   - hard cervical collar x3 months
   - T8 wedge fracture, trauma recs for NWB, HOB 45 degs.
   # ARF: Cr bl 1.2, then with rise to 2.0 on admit, thought 2/2 blood
   loss, ?ATN (no documented hypotension).  Had been on lasix gtt during
   hospitalization, now off.  T/c hepato-renal, compartment syndrome.  U/S
   without e/o hydronephrosis, but could not evaluate L renal arteries.
   Given distention on abd exam, could be developing compartment
   syndrome.  Received IV albumin x2 doses 11/23, one by floor team for
   hepatorenal, one post paracenteses (25g); also given 1L NS challenge
   for cr 2.7 in pm.
   - hold diuretics
   - UA, urine lytes, trend
   - IV albumin today for concern for hepatorenal
   - renal consult
   # hypernatremia: Na was elevated at 147 since [**11-2**], likely free h2o
   deficiency, on TFs, no access to free water.
   - free h2o boluses
   - initiate D5W for free water deficit of 3L
   - trend na, UOP
   # fEN: TFs - replete w/fiber, nutrition c/s, 200cc q8h
   # DM: cont NPH 15u [**Hospital1 **], qid finger sticks - SSI coverage
   # hypothyroidism: cont synthroid IV.
   # ppx:  SQH, PPI
   # access: PICC placed on [**11-6**]
   # code: Full code  - discussed with hcp [**11-8**], full code, but pt has
   expressed his wishes to not be on a ventilator for extended period of
   time if prognosis was poor.  HCP consented over phone for paracentesis
   and other icu procedures.
   # dispo: icu until resp status stable
   # contact: [**Name (NI) **] [**Name (NI) 2827**] (brother) [**Telephone/Fax (1) 2828**]
   [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 2581**] [**Telephone/Fax (1) 2829**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2172-11-9**] 09:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2172-11-8**] 12:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2172-11-11 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   D/c'd meropenem and switch to cipro for SBP treatment
   D/c'd HSQ due to rising PTT
   D/c'd D5W and used free water boluses through NGT to correct
   hyponatremia given rapid improvement
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Linezolid - [**2172-11-8**] 03:00 PM
   Meropenem - [**2172-11-10**] 09:11 AM
   Vancomycin - [**2172-11-10**] 12:30 PM
   Ciprofloxacin - [**2172-11-11**] 05:09 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-11-10**] 09:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-11-11**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 88 (75 - 101) bpm
   BP: 125/60(76) {101/46(58) - 141/73(89)} mmHg
   RR: 26 (15 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 92.6 kg
   Height: 68 Inch
           Total In:
                                                                  5,984 mL
                                                                  1,333 mL
   PO:
           TF:
                                                                    960 mL
                                                                    301 mL
   IVF:
                                                                  3,050 mL
                                                                    275 mL
   Blood products:
                                                                    193 mL
                                                                    107 mL
   Total out:
                                                                  1,695 mL
                                                                  1,095 mL
   Urine:
                                                                    695 mL
                                                                    195 mL
   NG:
   Stool:
                                                                  1,000 mL
                                                                    900 mL
   Drains:
   Balance:
                                                                  4,289 mL
                                                                    238 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   351 K/uL
   9.1 g/dL
   195 mg/dL
   2.4 mg/dL
   25 mEq/L
   3.8 mEq/L
   98 mg/dL
   108 mEq/L
   143 mEq/L
   28.7 %
   13.3 K/uL
        [image002.jpg]
                            [**2172-11-8**]  12:34 PM
                            [**2172-11-8**]  04:45 PM
                            [**2172-11-8**]  07:22 PM
                            [**2172-11-9**]  03:40 AM
                            [**2172-11-9**]  10:50 AM
                            [**2172-11-9**]  02:45 PM
                            [**2172-11-9**]  11:38 PM
                            [**2172-11-10**]  04:27 AM
                            [**2172-11-10**]  05:58 PM
                            [**2172-11-11**]  02:09 AM
   WBC
   13.3
   12.2
   11.0
   12.7
   13.7
   13.3
   Hct
   26.8
   28.8
   30.0
   28.3
   30.3
   29.9
   28.7
   Plt
   [**Telephone/Fax (3) 2898**]83
   349
   351
   Cr
   2.7
   2.4
   1.9
   2.1
   2.4
   TCO2
   31
   28
   Glucose
   157
   128
   161
   229
   195
   Other labs: PT / PTT / INR:19.8/44.5/1.8, ALT / AST:14/27, Alk Phos / T
   Bili:132/2.7, Amylase / Lipase:52/44, Differential-Neuts:76.8 %,
   Lymph:10.3 %, Mono:8.0 %, Eos:4.6 %, Fibrinogen:182 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:4.0 g/dL, LDH:279 IU/L, Ca++:9.6 mg/dL,
   Mg++:3.6 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   54yoM ETOH cirrhosis, DM, hypothyroidism, tranferred f/OSH [**10-27**]
   post-MVA, c/b dens fx-T8 fx, and hemoperitoneum treated medically, now
   transferred to MICU for increasing O2 requirements and tachypnea
   secondary to increasing abdominal ascites.
   # hypoxia/tachypnea.  Patient has been on 4lNC since extubation and was
   transferred to MICU for increasing O2 requirement up to 5LNC.  Likely
   secondary to increasing abdominal ascites.  Significant improvement of
   respiratory status with large volume paracentesis x 2 (11L of ascitic
   fluid removed).  Patient also currently getting treatment for VAP (
   MRSA in sputum when intubated).  LENIs were negative, unable to get CTA
   due to renal failure.  Meropenem d/c
ed on [**2172-11-11**] as there was no CXR
   infiltrate and no evidence of GNR in sputum.
   - cont vanco plan to complete 10d course from re-admission to MICU
   ending on [**2172-11-18**]
   - OOB to chair to decrease abomdinal pressure
   # altered mental status/cirrhosis.  Mental status is improved with
   holding opioids, lactulose, antibiotics for PNA and SBP, large volume
   paracentesis, and improvement of renal function.  Ascitic fluid
   consistent with SBP, though difficult to interpret in setting of
   hemoperitoneum (s/p MVA).
   - cipro to treat SBP, 1^st day of coverage with Meropenem is [**11-8**]
   - hold lasix/diuretics given ARF
   - hold sedating medications
   - lactulose, rifaxamin, titrate to [**2-18**] bms/d
   - cont ursodiol
   - f/u cultures
   # liver laceration: s/p MVA, medically managed 16uPRBCs, 8uFFP, 2u
   platelets, 2u-cryo, +F7 infusion, with stable hct since, ~29.  Bladder
   pressures 17 prior to para on [**11-9**], with decrease to 12 post
   procedure.  Hct ratio from [**10-30**] and [**11-6**] paracenteses with decreasing
   ratio, but then increased again on [**11-7**].
   - d/c HSQ as PTT is rising and having increasing Hct in ascitic fluid
   - trend hct
   - active t/s
   # dens/T8 fxs: nsg recommended conservative management.  Currently full
   weight bearing per neurology, so will get pt OOB to chair today to
   improve respiratory status.
   - hard cervical collar x3 months
   # ARF:  Baseline Cr of 1.2, up to 2.7 yesterday.  Patient responded
   dramatically to albumin and free water yesterday, now with Cr of 2.0.
   Renal feels renal failure is multifactorial secondary to hypotension
   and pre-renal state
 ATN.  Not likely to be HRS given response to
   IVF/albumin.
   - hold diuretics
   - renal following
   - renal dose all medications (specifically vancomycin)
   .
   # hypernatremia: Na 143 today. Hypernatremia was likely secondary to
   poor PO (free water) intake in setting of AMS.  Now with improvement of
   hypernatremia after receiveing D5W and free water boluses.
   - free water boluses
   # FEN:  TFs - replete w/fiber, free water flushes
   # DM: cont NPH 15u [**Hospital1 **], qid finger sticks - SSI coverage
   # hypothyroidism: cont synthroid IV.
   # ppx:  pneumoboots (d/c HSQ due to rising PTT), PPI
   # access: PICC placed on [**11-6**]
   # code: Full code  - discussed with hcp [**11-8**], full code, but pt has
   expressed his wishes to not be on a ventilator for extended period of
   time if prognosis was poor.  HCP consented over phone for paracentesis
   and other icu procedures.
   # dispo: icu until resp status stable
   # contact: [**Name (NI) **] [**Name (NI) 2827**] (brother) [**Telephone/Fax (1) 2828**]
   [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 2581**] [**Telephone/Fax (1) 2829**]
   ICU Care
   Nutrition: TFs - replete w/fiber, free water flushes
   Nutren 2.0 (Full) - [**2172-11-9**] 09:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2172-11-8**] 12:35 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU care for now

2172-11-12 07:56:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - UOP responded to albumin challenge
   - Intermittently confused
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2172-11-10**] 09:11 AM
   Vancomycin - [**2172-11-11**] 10:02 AM
   Ciprofloxacin - [**2172-11-12**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-11-12**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 97 (74 - 97) bpm
   BP: 119/65(77) {80/50(61) - 131/65(81)} mmHg
   RR: 23 (15 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 92.6 kg
   Height: 68 Inch
   Bladder pressure: 6 (6 - 6) mmHg
   Total In:
                                                                  3,867 mL
                                                                  1,071 mL
   PO:
   TF:
                                                                    960 mL
                                                                    317 mL
   IVF:
                                                                    840 mL
                                                                    179 mL
   Blood products:
                                                                    477 mL
   Total out:
                                                                  2,255 mL
                                                                    225 mL
   Urine:
                                                                    755 mL
                                                                    225 mL
   NG:
   Stool:
                                                                  1,500 mL
   Drains:
   Balance:
                                                                  1,612 mL
                                                                    846 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Decreased : bases)
   Abdominal: Soft, Focal tenderness/rebound over 3x3cm area on upper
   abdomen, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal, answering questions appropriately
   Labs / Radiology
   9.0 g/dL
   311 K/uL
   173 mg/dL
   2.9 mg/dL
   25 mEq/L
   3.7 mEq/L
   118 mg/dL
   109 mEq/L
   143 mEq/L
   27.3 %
   13.4 K/uL
        [image002.jpg]
                            [**2172-11-8**]  04:45 PM
                            [**2172-11-8**]  07:22 PM
                            [**2172-11-9**]  03:40 AM
                            [**2172-11-9**]  10:50 AM
                            [**2172-11-9**]  02:45 PM
                            [**2172-11-9**]  11:38 PM
                            [**2172-11-10**]  04:27 AM
                            [**2172-11-10**]  05:58 PM
                            [**2172-11-11**]  02:09 AM
                            [**2172-11-12**]  05:50 AM
   WBC
   13.3
   12.2
   11.0
   12.7
   13.7
   13.3
   13.4
   Hct
   26.8
   28.8
   30.0
   28.3
   30.3
   29.9
   28.7
   27.3
   Plt
   [**Telephone/Fax (3) 2898**]83
   349
   351
   311
   Cr
   2.7
   2.4
   1.9
   2.1
   2.4
   2.9
   TCO2
   28
   Glucose
   157
   128
   161
   [**Telephone/Fax (3) 2913**]
   Other labs: PT / PTT / INR:18.1/38.5/1.7, ALT / AST:[**11-13**], Alk Phos / T
   Bili:128/2.5, Amylase / Lipase:52/44, Differential-Neuts:76.8 %,
   Lymph:10.3 %, Mono:8.0 %, Eos:4.6 %, Fibrinogen:182 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:4.0 g/dL, LDH:279 IU/L, Ca++:9.7 mg/dL,
   Mg++:4.1 mg/dL, PO4:4.2 mg/dL
   CXR- Low lung volumes with bibasilar atelectasis. Dramatic elevation of
   right hemi-diaphram>L, present since [**2169**]
   Assessment and Plan
   54yoM ETOH cirrhosis (s/p TIPS and TIPs thrombosis), DM,
   hypothyroidism, transferred f/OSH [**10-27**] post-MVA, c/b dens fx-T8 fx,
   and hemoperitoneum treated medically ([**2177-10-28**]), also with MRSA VAP,
   extubated on [**11-3**] , transferred to MICU for increasing O2 requirements
   and tachypnea with altered mental status much improved over the past 24
   hrs.
     > Hypoxemia
 His increasing O2 requirement now is likely [**1-18**] volume
   overload given the albumin and free water he required and previously
   improved with large volume paracentesis (removed 14L on [**11-9**]).  Being
   treated for VAP with vanco.  Stable on 4L
   -          Continue vanc until [**11-18**]
   -          Optimize pulmonary mechanics
   > Ascites
 [**1-18**] liver failure. s/p multiple large volume paracentesis
   with reaccumlation
   -       follow abd pressure via bladder pressure to assess for
   compartment syndrome
   -          HOB > 45 degrees given risk for aspiration
   > Encephalopathy - +etoh cirrhosis with hepatic encephalopath( not on
   transplant list).   Multifactorial causes to altered MS [**First Name (Titles) 2905**]
[**Last Name (Titles) 2906**]ted liver function, previous hypernatremia, ICU delirium and
   pain all of which are improved to various degrees.  Would cont  the
   lactulose therapy as previous, still not safe for PO. Also he does not
   meet strict criteria for SBP but we are treating for a 7 day course and
   then will place on prophylaxis
   -          ciprofloxacin as treatment for 7 day course and then
   prophylaxis
   -          hold lasix/diuretics given ARF
   -          hold sedating medications
   -          lactulose, rifaxamin, titrate to [**2-18**] bms/d,
   -          cont ursodiol
    > Liver laceration: s/p MVA, medically managed 16uPRBCs, 8uFFP, 2u
   platelets, 2u-cryo, +F7 infusion, with stable hct since, ~29, with
   check of 27 today, and his HCT has been stable.
   -          trend hct it has been stable. Will cont to follow.
   -          active t/s
   > dens/T8 fxs: nsg recommended conservative management . Will discuss
   can we sit him up?
   -          hard cervical collar x3 months
   -          T8 wedge fracture, trauma recs for NWB, HOB 45 degs.
   > ARF: Cr bl 1.2, then with rise to 2.0 on admit, thought 2/2 blood
   loss, ?ATN (no documented hypotension).  Had been on lasix gtt during
   hospitalization, now off.  Cont to follow renal function and bladder
   pressures (about 17 cm H2O).  He responded well to  a HRS challenge
   with 1gm/kg albumin on [**11-9**].  He is overall volume overloaded, however
   he has low Na and Cl consistent with hypovolemia, re-challenge with
   albumin today  [**11-11**] as his Cr is worsening. Renal is following and
   their input is appreciated.
   -          challenge with albumin again today.
   -          check abd pressure via bladder pressure for compartment
   syndrome
   > Fever: Unclear source. Spikes every morning at 4am, but no meds
   associated with that timing. s/p blood/urine cultures 11/26.
   -          F/U cultures
   -          Diagnostic paracentesis today
   -          Continue cipro for SBP / Vanc for VAP
   Other issues per resident note.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2172-11-9**] 09:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2172-11-8**] 12:35 PM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer: IV PPI [**Hospital1 **]
   VAP:  HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes

2172-11-12 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - UO 825 mL after albumin challenge then tapered down to 15-20 ml/hr
   - insulin increased to NPH 17 units [**Hospital1 **]
   - confused, attempted to pull NGT
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2172-11-10**] 09:11 AM
   Vancomycin - [**2172-11-11**] 10:02 AM
   Ciprofloxacin - [**2172-11-12**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-11-12**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 97 (74 - 97) bpm
   BP: 119/65(77) {80/50(61) - 131/65(81)} mmHg
   RR: 23 (15 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 92.6 kg
   Height: 68 Inch
    Bladder pressure: 6 (6 - 6) mmHg
   Total In:
                                                                  3,867 mL
                                                                  1,073 mL
   PO:
   TF:
                                                                    960 mL
                                                                    318 mL
   IVF:
                                                                    840 mL
                                                                    180 mL
   Blood products:
                                                                    477 mL
   Total out:
                                                                  2,255 mL
                                                                    225 mL
   Urine:
                                                                    755 mL
                                                                    225 mL
   NG:
   Stool:
                                                                  1,500 mL
   Drains:
   Balance:
                                                                  1,612 mL
                                                                    848 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///25/
   Physical Examination
   Gen: awake, oriented to name and location, able to answer simple
   questions
   Lungs: coarse breath sounds bilaterally from anterior
   Heart: reg rhythm, nl rate, nl S1/S2, 3/6 systolic murmur best heard at
   LUSB
   Abd: distended, soft, moderately tender at epigastric area, bowel
   sounds present
   Ext: no edema
   Labs / Radiology
   311 K/uL
   9.0 g/dL
   173 mg/dL
   2.9 mg/dL
   25 mEq/L
   3.7 mEq/L
   118 mg/dL
   109 mEq/L
   143 mEq/L
   27.3 %
   13.4 K/uL
        [image002.jpg]
                            [**2172-11-8**]  04:45 PM
                            [**2172-11-8**]  07:22 PM
                            [**2172-11-9**]  03:40 AM
                            [**2172-11-9**]  10:50 AM
                            [**2172-11-9**]  02:45 PM
                            [**2172-11-9**]  11:38 PM
                            [**2172-11-10**]  04:27 AM
                            [**2172-11-10**]  05:58 PM
                            [**2172-11-11**]  02:09 AM
                            [**2172-11-12**]  05:50 AM
   WBC
   13.3
   12.2
   11.0
   12.7
   13.7
   13.3
   13.4
   Hct
   26.8
   28.8
   30.0
   28.3
   30.3
   29.9
   28.7
   27.3
   Plt
   [**Telephone/Fax (3) 2898**]83
   349
   351
   311
   Cr
   2.7
   2.4
   1.9
   2.1
   2.4
   2.9
   TCO2
   28
   Glucose
   157
   128
   161
   [**Telephone/Fax (3) 2913**]
   Other labs: PT / PTT / INR:18.1/38.5/1.7, ALT / AST:[**11-13**], Alk Phos / T
   Bili:128/2.5, Amylase / Lipase:52/44, Differential-Neuts:76.8 %,
   Lymph:10.3 %, Mono:8.0 %, Eos:4.6 %, Fibrinogen:182 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:4.0 g/dL, LDH:279 IU/L, Ca++:9.7 mg/dL,
   Mg++:4.1 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   54yoM ETOH cirrhosis, DM, hypothyroidism, transferred from OSH [**10-27**]
   post-MVA, c/b dens fx-T8 fx, and hemoperitoneum treated medically, was
   transferred to MICU for increasing O2 requirements and tachypnea
   secondary to increasing abdominal ascites.
   # Respiratory difficulty: with hypoxia/tachypnea on admission. Was on
   4L NC since extubation, then transferred to MICU for increasing O2
   requirement up to 6LNC, now back down to 4L NC.  Likely secondary to
   increasing abdominal ascites.  Significant improvement of respiratory
   status with large volume paracentesis x 2 (11L of ascitic fluid
   removed).  Patient also currently getting treatment for VAP ( MRSA in
   sputum when intubated).  LENIs were negative, unable to get CTA due to
   renal failure.  Meropenem d/c
ed on [**2172-11-11**] as there was no CXR
   infiltrate and no evidence of GNR in sputum.
   - continue vancomycin plan to complete 10-day course from re-admission
   to MICU ending on [**2172-11-18**]
   - OOB to chair to decrease abdominal pressure
   - suction prn
   # Altered mental status/cirrhosis.  Mental status improving with
   lactulose, antibiotics for PNA and SBP, large volume paracentesis,
   improvement of renal function, and discontinuation of sedatives.
   Ascitic fluid consistent with SBP, though difficult to interpret in
   setting of hemoperitoneum (s/p MVA).  Has had low-grade fever almost
   every morning.
   - cipro to treat SBP (day 1 = [**11-8**])
   - diagnostic paracentesis today
   - albumin 50 gm [**Hospital1 **]
   - octreotide and midodrine
   - hold sedating medications
   - lactulose, rifaxamin, titrate to [**2-18**] bms/d
   - cont ursodiol
   - f/u cultures
   - f/u liver recs
   # ARF:  Baseline Cr of 1.2, up to 2.7 yesterday.  Patient responded
   dramatically to albumin yesterday, similar to prior albumin challenge,
   but urine output then quickly tapered down to 15-20 ml/hr. Renal
   failure is multifactorial secondary to hypotension and pre-renal state
 ATN.  Less likely to be HRS given response to IVF/albumin.
   - continue to hold diuretics
   - f/u renal recs
   - renally dose all medications
   # Liver laceration: s/p MVA, medically managed 16uPRBCs, 8uFFP, 2u
   platelets, 2u-cryo, +F7 infusion, with stable hct since, ~29.  Bladder
   pressures 17 prior to para on [**11-9**], with decrease to 12 post
   procedure. Heparin SC d/c
ed due to hemoperitoneum and rising PTT.
   - trend hematocrit
   - active t/s
   # Dens/T8 fxs: s/p MVA. Neurosurg recommended conservative management.
   Currently full weight bearing per neurology, so okay to get OOB to
   improve respiratory status.
   - hard cervical collar x3 months
   - encourage OOB
   # DM:
   - increase insulin scale because of hyperglycemia
   # Hypothyroidism: cont synthroid IV.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2172-11-9**] 09:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2172-11-8**] 12:35 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: [**Name (NI) **] [**Name (NI) 2827**] (brother) [**Telephone/Fax (1) 2828**]. [**First Name5 (NamePattern1) **]
   [**Last Name (NamePattern1) 2581**] [**Telephone/Fax (1) 2829**]
   Code status: Full code
   Disposition:ICU

2172-11-13 07:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    54 yo with ETOH cirrohosis with MVA on [**10-27**] with hemoperitoneum, dens
   fracture.  Was originally intubated.  Extubated, went to the floor and
   returned for respiratory distress.
   24 Hour Events:
   - Diagnostic paracentesis negative for SBP
 culture negative
   - Afebrile
   - Weaned to 2L NC
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2172-11-10**] 09:11 AM
   Vancomycin - [**2172-11-12**] 10:00 AM
   Ciprofloxacin - [**2172-11-13**] 06:52 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-11-12**] 09:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-11-13**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.2
   HR: 73 (73 - 94) bpm
   BP: 127/58(74) {107/47(63) - 129/76(86)} mmHg
   RR: 15 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 92.6 kg
   Height: 68 Inch
             Total In:
                                                                  3,741 mL
                                                                  1,090 mL
   PO:
             TF:
                                                                    961 mL
                                                                    312 mL
   IVF:
                                                                    750 mL
                                                                    278 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                  1,450 mL
                                                                  1,340 mL
   Urine:
                                                                    850 mL
                                                                    390 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                  2,291 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, C-collar
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: Bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   9.0 g/dL
   324 K/uL
   123 mg/dL
   2.9 mg/dL
   25 mEq/L
   3.6 mEq/L
   131 mg/dL
   112 mEq/L
   150 mEq/L
   28.2 %
   10.4 K/uL
        [image002.jpg]
                            [**2172-11-8**]  07:22 PM
                            [**2172-11-9**]  03:40 AM
                            [**2172-11-9**]  10:50 AM
                            [**2172-11-9**]  02:45 PM
                            [**2172-11-9**]  11:38 PM
                            [**2172-11-10**]  04:27 AM
                            [**2172-11-10**]  05:58 PM
                            [**2172-11-11**]  02:09 AM
                            [**2172-11-12**]  05:50 AM
                            [**2172-11-13**]  03:57 AM
   WBC
   13.3
   12.2
   11.0
   12.7
   13.7
   13.3
   13.4
   10.4
   Hct
   26.8
   28.8
   30.0
   28.3
   30.3
   29.9
   28.7
   27.3
   28.2
   Plt
   [**Telephone/Fax (3) 2898**]83
   349
   351
   311
   324
   Cr
   2.4
   1.9
   2.1
   2.4
   2.9
   2.9
   TCO2
   28
   Glucose
   128
   161
   229
   195
   173
   123
   Other labs: PT / PTT / INR:18.8/35.1/1.7, ALT / AST:[**12-9**], Alk Phos / T
   Bili:124/2.5, Amylase / Lipase:52/44, Differential-Neuts:75.4 %,
   Lymph:13.0 %, Mono:8.5 %, Eos:2.5 %, Fibrinogen:182 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:4.6 g/dL, LDH:279 IU/L, Ca++:9.6 mg/dL,
   Mg++:4.3 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   54yoM ETOH cirrhosis (s/p TIPS and TIPs thrombosis), DM,
   hypothyroidism, transferred f/OSH [**10-27**] post-MVA, c/b dens fx-T8 fx,
   and hemoperitoneum treated medically ([**2177-10-28**]), also with MRSA VAP,
   extubated on [**11-3**] , transferred to MICU for increasing O2 requirements
   and tachypnea with altered mental status much improved over the past 24
   hrs.
    > Hypoxemia
O2 requirement likely [**1-18**] volume overload given the
   albumin and free water he required and previously improved with large
   volume paracentesis (removed 14L on [**11-9**]).  Being treated for VAP with
   vanco.  Now decreased to 2L NC.
   -          Continue vanc until [**11-18**]
   -          Optimize pulmonary mechanics
   -          Wean O2 off
   > Ascites
 [**1-18**] liver failure. s/p multiple large volume paracentesis
   with reaccumlation
   -        follow abd pressure via bladder pressure to assess for
   compartment syndrome
   -        HOB > 45 degrees given risk for aspiration
   > Encephalopathy - +etoh cirrhosis with hepatic encephalopath( not on
   transplant list).   Multifactorial causes to altered MS [**First Name (Titles) 2905**]
[**Last Name (Titles) 2906**]ted liver function, previous hypernatremia, ICU delirium and
   pain all of which are improved to various degrees.  Would cont  the
   lactulose therapy as previous, still not safe for PO. Also he does not
   meet strict criteria for SBP but we are treating for a 7 day course and
   then will place on prophylaxis
   -          ciprofloxacin as treatment for 7 day course and then
   prophylaxis
   -          hold lasix/diuretics given ARF
   -          hold sedating medications
   -          lactulose, rifaxamin, titrate to [**2-18**] bms/d,
   -          cont ursodiol
    > Liver laceration: s/p MVA, medically managed 16uPRBCs, 8uFFP, 2u
   platelets, 2u-cryo, +F7 infusion, with stable hct since, ~29, with
   check of 27 today, and his HCT has been stable.
   -          trend hct it has been stable. Will cont to follow.
   -          active t/s
   > dens/T8 fxs: nsg recommended conservative management . Will discuss
   can we sit him up?
   -          hard cervical collar x3 months
   -          T8 wedge fracture, trauma recs for NWB, HOB 45 degs.
   > ARF: Cr bl 1.2, then with rise to 2.0 on admit, thought 2/2 blood
   loss, ?ATN (no documented hypotension).  Had been on lasix gtt during
   hospitalization, now off.  Cont to follow renal function and bladder
   pressures (about 17 cm H2O).  He responded well to  a HRS challenge
   with 1gm/kg albumin on [**11-9**].  He is overall volume overloaded, however
   he has low Na and Cl consistent with hypovolemia, re-challenge with
   albumin today  [**11-11**] as his Cr is worsening. Renal is following and
   their input is appreciated.
   -          continue with albumin
   -          follow pressure via bladder pressure for compartment
   syndrome
   > Fever: Unclear source. Spikes every morning at 4am, but no meds
   associated with that timing. s/p blood/urine cultures 11/26. Now
   afebrile x >24 hours. No evidence of SBP on diagnostic paracentesis
   [**11-11**].
   -          F/U cultures
   -          Continue cipro for SBP / Vanc for VAP
   > Hypernatremia:
   -          Free water flushes
   Other issues per resident note.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2172-11-12**] 08:58 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-11-13**] 06:46 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2172-11-13 07:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - diagnostic para: grossly bloody; 266 PMNs on cell count but so many
   RBCs that we don't think this is new/persistent/recurrent SBP; liver
   agreed; no change in ABx
   - started midodrine, octreotide, albumin for HRS
   - he pulled his PICC line out a few min ago; IV nurse coming to
   evaluate
   - serum Na up to 150 this morning so increased free H2O boluses
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2172-11-10**] 09:11 AM
   Vancomycin - [**2172-11-12**] 10:00 AM
   Ciprofloxacin - [**2172-11-13**] 06:52 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-11-12**] 09:26 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-11-13**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.2
   HR: 73 (73 - 94) bpm
   BP: 127/58(74) {107/47(63) - 129/76(86)} mmHg
   RR: 15 (13 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 92.6 kg
   Height: 68 Inch
             Total In:
                                                                  3,741 mL
                                                                  1,097 mL
   PO:
             TF:
                                                                    961 mL
                                                                    317 mL
   IVF:
                                                                    750 mL
                                                                    279 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                  1,450 mL
                                                                  1,340 mL
   Urine:
                                                                    850 mL
                                                                    390 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                  2,291 mL
                                                                   -243 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Gen: awake, oriented to name and location, able to answer simple
   questions, makes statements on going to bank to withdraw money
   Lungs: coarse breath sounds bilaterally from anterior
   Heart: reg rhythm, nl rate, nl S1/S2, 3/6 systolic murmur best heard at
   LUSB
   Abd: distended, soft, moderately tender at epigastric area, bowel
   sounds present
   Ext: no edema
   Labs / Radiology
   324 K/uL
   9.0 g/dL
   123 mg/dL
   2.9 mg/dL
   25 mEq/L
   3.6 mEq/L
   131 mg/dL
   112 mEq/L
   150 mEq/L
   28.2 %
   10.4 K/uL
        [image002.jpg]
                            [**2172-11-8**]  07:22 PM
                            [**2172-11-9**]  03:40 AM
                            [**2172-11-9**]  10:50 AM
                            [**2172-11-9**]  02:45 PM
                            [**2172-11-9**]  11:38 PM
                            [**2172-11-10**]  04:27 AM
                            [**2172-11-10**]  05:58 PM
                            [**2172-11-11**]  02:09 AM
                            [**2172-11-12**]  05:50 AM
                            [**2172-11-13**]  03:57 AM
   WBC
   13.3
   12.2
   11.0
   12.7
   13.7
   13.3
   13.4
   10.4
   Hct
   26.8
   28.8
   30.0
   28.3
   30.3
   29.9
   28.7
   27.3
   28.2
   Plt
   [**Telephone/Fax (3) 2898**]83
   349
   351
   311
   324
   Cr
   2.4
   1.9
   2.1
   2.4
   2.9
   2.9
   TCO2
   28
   Glucose
   128
   161
   229
   195
   173
   123
   Other labs: PT / PTT / INR:18.8/35.1/1.7, ALT / AST:[**12-9**], Alk Phos / T
   Bili:124/2.5, Amylase / Lipase:52/44, Differential-Neuts:75.4 %,
   Lymph:13.0 %, Mono:8.5 %, Eos:2.5 %, Fibrinogen:182 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:4.6 g/dL, LDH:279 IU/L, Ca++:9.6 mg/dL,
   Mg++:4.3 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   54yoM ETOH cirrhosis, DM, hypothyroidism, transferred from OSH [**10-27**]
   post-MVA, c/b dens fx-T8 fx, and hemoperitoneum treated medically, was
   transferred to MICU for increasing O2 requirements and tachypnea
   secondary to increasing abdominal ascites.
   # Respiratory difficulty: with hypoxia/tachypnea on admission.
   Extubated on surgical service but then required 6L [**Hospital 2928**] transferred to
   MICU. Likely secondary to increasing abdominal ascites.  Significant
   improvement of respiratory status with large volume paracentesis x 2
   (11L of ascitic fluid removed).  Now sating well on no supplemental
   oxygen. Also with ?VAP ( MRSA in sputum when intubated).  Meropenem
   d/c
ed on [**2172-11-11**] as there was no CXR infiltrate and no evidence of
   GNR in sputum.
   - continue vancomycin plan to complete 10-day course from re-admission
   to MICU ending on [**2172-11-18**]
   - OOB to chair to decrease abdominal pressure
   - suction prn
   # Alcoholic cirrhosis: with ascites, s/p 2 large-volume paracenteses
   and repeat diagnostic para yesterday, which showed no evidence of SBP.
   Ascitic fluid c/w hemoperitoneum. Defervesced.
   - continue albumin, octreotide, midodrine, cipro, lactulose, rifaxamin
   - hepatology recs
   - f/u peritoneal fluid cx
   # Altered mental status: still intermittently confused, hepatic
   encephalopathy, also hypernatremia. Overall mental status has improved
   with lactulose, antibiotics for PNA and SBP, large volume paracentesis,
   improvement of renal function, and discontinuation of sedatives.
   - lactulose, rifaxamin, titrate to [**2-18**] bms/d
   # ARF:  Baseline Cr of 1.2, up to 2.7 yesterday.  Patient responded
   dramatically to albumin yesterday, similar to prior albumin challenge,
   but urine output then quickly tapered down to 15-20 ml/hr. Renal
   failure is multifactorial secondary to hypotension and pre-renal state
 ATN.  Less likely to be HRS given response to IVF/albumin.
   - continue to hold diuretics
   - f/u renal recs
   - renally dose all medications
   # Liver laceration: s/p MVA, medically managed 16uPRBCs, 8uFFP, 2u
   platelets, 2u-cryo, +F7 infusion, with stable hct since, ~29.  Bladder
   pressures 17 prior to para on [**11-9**], with decrease to 12 post
   procedure. Heparin SC d/c
ed due to hemoperitoneum and rising PTT.
   - trend hematocrit
   - active t/s
   # Dens/T8 fxs: s/p MVA. Neurosurg recommended conservative management.
   Currently full weight bearing per neurology, so okay to get OOB to
   improve respiratory status.
   - hard cervical collar x3 months
   - encourage OOB
   # DM:
   - increase insulin scale because of hyperglycemia
   # Hypothyroidism: cont synthroid IV.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2172-11-12**] 08:58 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-11-13**] 06:46 AM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:  [**Name (NI) **] [**Name (NI) 2827**] (brother) [**Telephone/Fax (1) 2828**]. [**First Name5 (NamePattern1) **]
   [**Last Name (NamePattern1) 2581**] [**Telephone/Fax (1) 2829**]
   Code status: Full code
   Disposition: ICU care for now

2172-11-14 07:58:00 Physician Resident Progress Note
Chief Complaint: no pain
   24 Hour Events:
   - no acute event
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2172-11-13**] 10:00 AM
   Ciprofloxacin - [**2172-11-13**] 06:18 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-11-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-11-14**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.2
C (97.1
   HR: 80 (68 - 82) bpm
   BP: 134/67(82) {108/51(66) - 138/92(102)} mmHg
   RR: 22 (13 - 23) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 92.6 kg
   Height: 68 Inch
           Total In:
                                                                  3,920 mL
                                                                    598 mL
   PO:
           TF:
                                                                    960 mL
                                                                    319 mL
   IVF:
                                                                    850 mL
                                                                     80 mL
   Blood products:
                                                                    200 mL
                                                                    200 mL
   Total out:
                                                                  3,485 mL
                                                                    370 mL
   Urine:
                                                                  1,235 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    435 mL
                                                                    228 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 89%
   ABG: ///25/
   Physical Examination
   Gen: awake, oriented to name and location, able to answer simple
   questions, makes statements on going to bank to withdraw money
   Lungs: coarse breath sounds bilaterally from anterior
   Heart: reg rhythm, nl rate, nl S1/S2, 3/6 systolic murmur best heard at
   LUSB
   Abd: distended, soft, moderately tender at epigastric area, bowel
   sounds present
   Ext: no edema
   Labs / Radiology
   326 K/uL
   9.5 g/dL
   91 mg/dL
   2.4 mg/dL
   25 mEq/L
   4.0 mEq/L
   131 mg/dL
   114 mEq/L
   151 mEq/L
   30.7 %
   11.8 K/uL
        [image002.jpg]
                            [**2172-11-9**]  10:50 AM
                            [**2172-11-9**]  02:45 PM
                            [**2172-11-9**]  11:38 PM
                            [**2172-11-10**]  04:27 AM
                            [**2172-11-10**]  05:58 PM
                            [**2172-11-11**]  02:09 AM
                            [**2172-11-12**]  05:50 AM
                            [**2172-11-13**]  03:57 AM
                            [**2172-11-13**]  03:06 PM
                            [**2172-11-14**]  03:57 AM
   WBC
   11.0
   12.7
   13.7
   13.3
   13.4
   10.4
   11.8
   Hct
   30.0
   28.3
   30.3
   29.9
   28.7
   27.3
   28.2
   30.7
   Plt
   377
   383
   349
   [**Telephone/Fax (3) 2953**]
   326
   Cr
   1.9
   2.1
   2.4
   2.9
   2.9
   2.6
   2.4
   TCO2
   28
   Glucose
   161
   229
   195
   173
   123
   163
   91
   Other labs: PT / PTT / INR:18.8/35.1/1.7, ALT / AST:[**12-9**], Alk Phos / T
   Bili:124/2.5, Amylase / Lipase:52/44, Differential-Neuts:75.4 %,
   Lymph:13.0 %, Mono:8.5 %, Eos:2.5 %, Fibrinogen:182 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:4.6 g/dL, LDH:279 IU/L, Ca++:10.0 mg/dL,
   Mg++:4.6 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
    54yoM ETOH cirrhosis, DM, hypothyroidism, transferred from OSH [**10-27**]
   post-MVA, c/b dens fx-T8 fx, and hemoperitoneum treated medically, was
   transferred to MICU for increasing O2 requirements and tachypnea
   secondary to increasing abdominal ascites.
   # Respiratory difficulty: with hypoxia/tachypnea on admission.
   Extubated on surgical service but then required 6L [**Hospital 2928**] transferred to
   MICU. Likely secondary to increasing abdominal ascites.  Significant
   improvement of respiratory status with large volume paracentesis x 2
   (11L of ascitic fluid removed).  Now sating well on no supplemental
   oxygen. Also with ?VAP ( MRSA in sputum when intubated).  Meropenem
   d/c
ed on [**2172-11-11**] as there was no CXR infiltrate and no evidence of
   GNR in sputum.
   - continue vancomycin plan to complete 10-day course from re-admission
   to MICU ending on [**2172-11-18**]
   - OOB to chair to decrease abdominal pressure
   - suction prn
   # Alcoholic cirrhosis: with ascites, s/p 2 large-volume paracenteses
   and repeat diagnostic para yesterday, which showed no evidence of SBP.
   Ascitic fluid c/w hemoperitoneum. Defervesced.
   - continue albumin, octreotide, midodrine, cipro, lactulose, rifaxamin
   - hepatology recs
   - f/u peritoneal fluid cx
   # Altered mental status: still intermittently confused, hepatic
   encephalopathy, also hypernatremia. Overall mental status has improved
   with lactulose, antibiotics for PNA and SBP, large volume paracentesis,
   improvement of renal function, and discontinuation of sedatives.
   - lactulose, rifaxamin, titrate to [**2-18**] bms/d
   # ARF:  Cr improving to 2.4 from 2.6, baseline Cr of 1.2, peak 2.7.
   Renal failure is multifactorial secondary to hypotension and pre-renal
   state
 ATN.  Also ? HRS.
   - continue to hold diuretics
   - f/u renal recs
   - renally dose all medications
   - [**Hospital1 **] electrolytes
   # Hypernatremia: Na 151 this morning, 150 yesterday. Most likely due to
   free water deficit from aggressive lactulose treatment and diarrhea.
   - continue free water boluses of 400 ml q4h
   - start D5W
   - check pm lytes
   # Liver laceration: s/p MVA, medically managed 16uPRBCs, 8uFFP, 2u
   platelets, 2u-cryo, +F7 infusion, with stable hct since, ~29.  Bladder
   pressures 17 prior to para on [**11-9**], with decrease to 12 post
   procedure. Heparin SC d/c
ed due to hemoperitoneum and rising PTT.
   - trend hematocrit
   - active t/s
   # Dens/T8 fxs: s/p MVA. Neurosurg recommended conservative management.
   Currently full weight bearing per neurology, so okay to get OOB to
   improve respiratory status.
   - hard cervical collar x3 months
   - encourage OOB
   # DM:
   - increase insulin scale because of hyperglycemia
   # Hypothyroidism: cont synthroid IV.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2172-11-12**] 08:58 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-11-13**] 06:46 AM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:  [**Name (NI) **] [**Name (NI) 2827**] (brother) [**Telephone/Fax (1) 2828**]. [**First Name5 (NamePattern1) **]
   [**Last Name (NamePattern1) 2581**] [**Telephone/Fax (1) 2829**]
   Code status: Full code
   Disposition: ICU care for now

2172-11-14 08:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - On 1L NC
   - Afebrile
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2172-11-13**] 10:00 AM
   Ciprofloxacin - [**2172-11-13**] 06:18 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-11-14**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-11-14**] 08:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.8
   HR: 72 (68 - 82) bpm
   BP: 122/67(80) {108/36(56) - 138/92(102)} mmHg
   RR: 14 (14 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 97.5 kg (admission): 92.6 kg
   Height: 68 Inch
           Total In:
                                                                  3,920 mL
                                                                    714 mL
   PO:
           TF:
                                                                    960 mL
                                                                    339 mL
   IVF:
                                                                    850 mL
                                                                     95 mL
   Blood products:
                                                                    200 mL
                                                                    200 mL
   Total out:
                                                                  3,485 mL
                                                                    470 mL
   Urine:
                                                                  1,235 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    435 mL
                                                                    244 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, C-collar
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: Bases)
   Abdominal: No(t) Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: absent, Left: absent
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   9.5 g/dL
   326 K/uL
   91 mg/dL
   2.4 mg/dL
   25 mEq/L
   4.0 mEq/L
   131 mg/dL
   114 mEq/L
   151 mEq/L
   30.7 %
   11.8 K/uL
        [image002.jpg]
                            [**2172-11-9**]  10:50 AM
                            [**2172-11-9**]  02:45 PM
                            [**2172-11-9**]  11:38 PM
                            [**2172-11-10**]  04:27 AM
                            [**2172-11-10**]  05:58 PM
                            [**2172-11-11**]  02:09 AM
                            [**2172-11-12**]  05:50 AM
                            [**2172-11-13**]  03:57 AM
                            [**2172-11-13**]  03:06 PM
                            [**2172-11-14**]  03:57 AM
   WBC
   11.0
   12.7
   13.7
   13.3
   13.4
   10.4
   11.8
   Hct
   30.0
   28.3
   30.3
   29.9
   28.7
   27.3
   28.2
   30.7
   Plt
   377
   383
   349
   [**Telephone/Fax (3) 2953**]
   326
   Cr
   1.9
   2.1
   2.4
   2.9
   2.9
   2.6
   2.4
   TCO2
   28
   Glucose
   161
   229
   195
   173
   123
   163
   91
   Other labs: PT / PTT / INR:18.8/35.1/1.7, ALT / AST:[**12-9**], Alk Phos / T
   Bili:124/2.5, Amylase / Lipase:52/44, Differential-Neuts:75.4 %,
   Lymph:13.0 %, Mono:8.5 %, Eos:2.5 %, Fibrinogen:182 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:4.6 g/dL, LDH:279 IU/L, Ca++:10.0 mg/dL,
   Mg++:4.6 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   54yoM ETOH cirrhosis (s/p TIPS and TIPs thrombosis), DM,
   hypothyroidism, transferred f/OSH [**10-27**] post-MVA, c/b dens fx-T8 fx,
   and hemoperitoneum treated medically ([**2177-10-28**]), also with MRSA VAP,
   extubated on [**11-3**] , transferred to MICU for increasing O2 requirements
   and tachypnea with altered mental status much improved over the past 24
   hrs.
    > Hypoxemia
 Recent O2 requirement likely [**1-18**] volume overload given
   the albumin and free water he required and previously improved with
   large volume paracentesis (removed 14L on [**11-9**]).  Being treated for
   VAP with vanco.  Now on 1L NC
   -          Continue vanc until [**11-18**]
   -          Optimize pulmonary mechanics
   -          Wean as tolerated
   > Ascites
 [**1-18**] liver failure. s/p multiple large volume paracentesis
   with reaccumlation
   -        follow abd pressure via bladder pressure to assess for
   compartment syndrome
   -        HOB > 45 degrees given risk for aspiration
   > Encephalopathy - +etoh cirrhosis with hepatic encephalopath( not on
   transplant list).   Multifactorial causes to altered MS [**First Name (Titles) 2905**]
[**Last Name (Titles) 2906**]ted liver function, previous hypernatremia, ICU delirium and
   pain all of which are improved to various degrees.  Would cont  the
   lactulose therapy as previous, still not safe for PO. Also he does not
   meet strict criteria for SBP but we are treating for a 7 day course and
   then will place on prophylaxis
   -          ciprofloxacin as treatment for 7 day course (ending [**11-17**])
   and then prophylaxis
   -          hold lasix/diuretics given ARF
   -          hold sedating medications
   -          lactulose, rifaxamin, titrate to [**2-18**] bms/d,
   -          cont ursodiol
    > Liver laceration: s/p MVA, medically managed 16uPRBCs, 8uFFP, 2u
   platelets, 2u-cryo, +F7 infusion, with stable hct since, ~29, with
   check of 27 today, and his HCT has been stable.
   -          trend hct it has been stable. Will cont to follow.
   -          active t/s
   > dens/T8 fxs: nsg recommended conservative management . Will discuss
   can we sit him up?
   -          hard cervical collar x3 months
   -          T8 wedge fracture, trauma recs for NWB, HOB 45 degs.
   > ARF: Cr bl 1.2, then with rise to 2.0 on admit, thought 2/2 blood
   loss, ?ATN (no documented hypotension).  Had been on lasix gtt during
   hospitalization, now off.  Cont to follow renal function and bladder
   pressures.  He responded well to a HRS challenge with 1gm/kg albumin on
   [**11-9**].  He is overall volume overloaded, however he has low Na and Cl
   consistent with hypovolemia, responds to albumin.  Creatinine now
   slowly improving.  Renal is following and their input is appreciated.
   -          continue with albumin, octreotide, midodrine
   > Hypernatremia: Stable on increased free water flushes
   -          Increase free water flushes more
   Other issues per resident note.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2172-11-12**] 08:58 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2172-11-13**] 02:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes